US07582656B2
Benzyltriethylammonium permanganate (0.281 g; 1.5 eq.) is added, at 5° C. and portionwise, to a solution of N-(4-benzyloxyphenyl)-N′-(3-methylbutyl)thiourea (0.200 g) and 3-dimethylamino-2,2-dimethylpropylamine (0.156 g; 2 eq.) in tetrahydrofuran (THF; 2.2 ml). The reaction medium is stirred for three days at room temperature. After filtration and concentration, the product is purified by chromatography on silica (eluent: methanol +0.1% acetic acid). The product, dissolved in dichloromethane, is washed with 1N sodium hydroxide. After drying and concentration, 0.067 g of N-(4-benzyloxyphenyl)-N′-(3-dimethylamino-2,2-dimethylpropyl)-N″-(3-methylbutyl)guanidine is obtained.

reactant | Benzyltriethylammonium permanganate | 0.281 g, 1.5 eq. | [Mn](=O)(=O)(=O)[O-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
reactant | N-(4-benzyloxyphenyl)-N′-(3-methylbutyl)thiourea | 0.200 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=S)NCCC(C)C | C19H24N2OS
reactant | 3-dimethylamino-2,2-dimethylpropylamine | 0.156 g, 2 eq. | CN(CC(CN)(C)C)C | C7H18N2
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
product | N-(4-benzyloxyphenyl)-N′-(3-dimethylamino-2,2-dimethylpropyl)-N″-(3-methylbutyl)guanidine | 0.067 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=NCCC(C)C)NCC(CN(C)C)(C)C | C26H40N4O
